US07781478B2
To a solution of 6-trifluoromethoxyindole (3.01 g, 15.0 mmol) and di-tert-butyl dicarbonate (3.59 g, 16.5 mmol) in DCM (30 mL) at 40° C. is added DMAP (0.04 g) while stirring. After stirring overnight, the mixture is washed sequentially with 0.1 N HCl, water and brine and dried over anhydrous Na2SO4. The solvent is evaporated and the residue is chromatographed (silica gel, EtOAc/Hexanes, 1/9) to provide tert-butyl 6-trifluoromethoxy-1H-indole-1-carboxylate.

reactant | 6-trifluoromethoxyindole | 15.0 mmol, 3.01 g | FC(OC1=CC=C2C=CNC2=C1)(F)F | C9H6F3NO
reactant | di-tert-butyl dicarbonate | 16.5 mmol, 3.59 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.04 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl 6-trifluoromethoxy-1H-indole-1-carboxylate | FC(OC1=CC=C2C=CN(C2=C1)C(=O)OC(C)(C)C)(F)F | C14H14F3NO3
